US06982278B2
2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid
A solution of 2-methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester (5.00 g, 11.8 mmol) in THF (30 mL) and MeOH (60 mL) was treated with 5N aqueous NaOH (20 mL). The solution was heated at 55° C. for 1 h, cooled to ambient temperature, and concentrated in vacuo. The residue was treated with ice water (20 mL), acidified with 5N aqueous HCl (25 mL), and extracted with ethyl acetate (200 mL). The organic layer was washed with brine (40 mL), dried (Na2SO4), and concentrated to a white solid (4.46 g, 96%): mp 117° C.; 1H NMR (400 MHz, CDCl3) δ 1.53 (s, 6H), 2.19 (s, 3H), 2.38 (s, 3H), 2.98 (t, 2H, J=6.6 Hz), 4.15 (t, 2H, J=6.6 Hz), 6.58 (dd, 1H, J=3.4, 8.8 Hz), 6.70 (d, 1H, J=2.9 Hz), 6.80 (d, 1H, J=8.8 Hz), 7.38-7.45 (m, 3H), 7.97-8.00 (m, 2H); MS (FIA) m/e 394.2 [M−1].

reactant | 2-methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester | 11.8 mmol, 5.00 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)C)=O | C25H29NO5
reactant | NaOH | 5N, 20 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 60 mL | CO | CH4O
product | 2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C | C23H25NO5
